US07060827B2
In like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 2-chloro-N-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine was reacted with 1-aminopyrrole to provide N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(1H-pyrrol-1-yl)-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 9.95 (s, 1H), 9.16 (s, 1H), 7.95 (d, 1H, J=3.5 Hz), 7.16-7.12 (m, 2H), 6.69 (dd, 2H, J=2.3 and 4.7 Hz), 6.61 (d, 1H, J=8.8 Hz), 5.99 (dd, 2H, J=2.3 and 4.7 Hz), 4.12–4.15 (m, 4H). LCMS: ret. time: 19.86 min.; purity: 92%; MS (m/e): 328 (MH+).

reactant | 2-chloro-N-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C12H9ClFN3O2
reactant | 1-aminopyrrole | NN1C=CC=C1 | C4H6N2
product | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(1H-pyrrol-1-yl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NN1C=CC=C1 | C16H14FN5O2
